US08536168B2
2-[4-(4-Benzyl-phthalazin-1-yl)-piperazin-1-yl]-pyrimidine-5-carbonitrile
Using the general protocol, 1-benzyl-4-piperazin-1-yl-phthalazine (56 mg, 0.184 mmol) and 2-chloro-5-cyanopyrimidine (44.5 mg, 0.239 mmol) are added into a microwave vial, equipped with a stir bar, and MeCN (0.5 ml) and NMP (0.5 ml) are dispensed. The vial is sealed and the reaction was irradiated at high level absorption in the microwave at 180° C. for 15 min. The product is observed as the main peak (m/z; M+1=408). The compound is purified by preparative HPLC using a C8-254 nm method.

reactant | 1-benzyl-4-piperazin-1-yl-phthalazine | 0.184 mmol, 56 mg | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCNCC1 | C19H20N4
reactant | 2-chloro-5-cyanopyrimidine | 0.239 mmol, 44.5 mg | ClC1=NC=C(C=N1)C#N | C5H2ClN3
reactant | MeCN | 0.5 ml | CC#N | C2H3N
solvent | NMP | 0.5 ml | CN1CCCC1=O | C5H9NO
product | 2-[4-(4-Benzyl-phthalazin-1-yl)-piperazin-1-yl]-pyrimidine-5-carbonitrile | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCN(CC1)C1=NC=C(C=N1)C#N | C24H21N7
